US08067445B2
Step 5: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester and (4-chloro-3-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester.

reactant | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H29BF3NO4
reactant | (4-chloro-3-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OS(=O)(=O)C(F)(F)F)=O | C11H10ClF3O5S
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H27ClF3NO4
